US08492582B2
A 1.0 mol/L tetrabutylammonium fluoride-tetrahydrofuran solution (0.38 mL) was added to a tetrahydrofuran (1.3 mL) solution of the obtained methyl 2-(2-(benzyloxy)-5-(1-(2-(tert-butyldimethylsilyloxy)ethyl)piperidin-4-yl)benzamido)-4-phenylbenzoate (0.13 g), followed by stirring at room temperature for 4 hours. Under ice-cooling, water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-92% chloroform/methanol] to obtain 0.085 g of methyl 2-(2-(benzyloxy)-5-(1-(2-hydroxyethyl)piperidin-4-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | tetrabutylammonium fluoride tetrahydrofuran | 1.0 mol/L, 0.38 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | tetrahydrofuran | 1.3 mL | O1CCCC1 | C4H8O
reactant | methyl 2-(2-(benzyloxy)-5-(1-(2-(tert-butyldimethylsilyloxy)ethyl)piperidin-4-yl)benzamido)-4-phenylbenzoate | 0.13 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCN(CC1)CCO[Si](C)(C)C(C)(C)C | C41H50N2O5Si
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(2-(benzyloxy)-5-(1-(2-hydroxyethyl)piperidin-4-yl)benzamido)-4-phenylbenzoate | 0.085 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCN(CC1)CCO | C35H36N2O5
